US08871782B2
A modification on the methods described in Parts A-H of Example 2 were used to prepare 2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-ol, with 3-benzyloxyaniline and 3-methoxypropanoyl chloride used in lieu of 4-benzyloxyaniline and ethoxyacetyl chloride, respectively. Diisopropyl azodicarboxylate (2.07 mL, 10.5 mmol) was added dropwise to a slurry of 2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-ol (2.00 g, 7.01 mmol), triphenylphosphine (2.75 g, 10.5 mmol), and 3-(methylthio)propan-1-ol (1.08 mL, 10.5 mmol) in tetrahydrofuran (70 mL) at 0° C. The solution was stirred for 30 minutes at 0° C., then at room temperature for 16 hours. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate, treated with 1 M hydrochloric acid (40 mL), and stirred for 30 minutes. The layers were separated and the aqueous layer was extracted with ethyl acetate (2×25 mL). The aqueous layer was adjusted to approximately pH 14 with 50% aqueous sodium hydroxide and then was extracted with dichloromethane (3×50 mL). The organic layers were combined, washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by flash chromatography (silica gel, gradient elution with 1-4% methanol in dichloromethane) to provide 2.0 g of 2-(2-methoxyethyl)-7-[3-(methylthio)propoxy]-1-propyl-1H-imidazo[4,5-c]quinoline as an opaque solid.

reactant | 2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-ol | COCCC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CCC | C16H19N3O2
reactant | 3-benzyloxyaniline | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
reactant | 3-methoxypropanoyl chloride | COCCC(=O)Cl | C4H7ClO2
reactant | 4-benzyloxyaniline | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | ethoxyacetyl chloride | C(C)OCC(=O)Cl | C4H7ClO2
reactant | Diisopropyl azodicarboxylate | 10.5 mmol, 2.07 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-ol | 7.01 mmol, 2.00 g | COCCC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CCC | C16H19N3O2
reactant | triphenylphosphine | 10.5 mmol, 2.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(methylthio)propan-1-ol | 10.5 mmol, 1.08 mL | CSCCCO | C4H10OS
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 2-(2-methoxyethyl)-7-[3-(methylthio)propoxy]-1-propyl-1H-imidazo[4,5-c]quinoline | 2.0 g | COCCC=1N(C2=C(C=NC=3C=C(C=CC23)OCCCSC)N1)CCC | C20H27N3O2S
